US07812043B2
1-(Toluene-4-sulfonyl)-1H-pyrrole-3-carboxylic acid thiazol-2-ylamide (68 mg) was prepared from 1-(toluene-4-sulfonyl)-1H-pyrrole-3-carboxylic acid (66 mg, 0.25 mmol) and 2-aminothiazole (25 mg, 0.25 mmol) following the general procedure F.

reactant | 1-(toluene-4-sulfonyl)-1H-pyrrole-3-carboxylic acid | 0.25 mmol, 66 mg | C1(=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)C(=O)O)C | C12H11NO4S
reactant | 2-aminothiazole | 0.25 mmol, 25 mg | NC=1SC=CN1 | C3H4N2S
product | 1-(Toluene-4-sulfonyl)-1H-pyrrole-3-carboxylic acid thiazol-2-ylamide | 68 mg | S1C(=NC=C1)NC(=O)C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C | C15H13N3O3S2
